US07943636B2
Potassium acetate (3.12 g, 31.7 mmol) and bromine (2.84 g, 17.7 mmol) were sequentially added to a solution of 1-(2-methoxyethyl)-5-(tetrahydro-2H-pyran-4-ylmethyl)-1H-pyrazole-3-carbonitrile (3.16 g, 12.7 mmol) in acetic acid (25 mL). The reaction was stirred for 16 hours at room temperature. Saturated aqueous sodium hydrogensulfite was added until the reaction became colorless. Water was added, and a precipitate formed, was isolated by filtration, washed with water, and dried on the vacuum filter funnel to provide 3.78 g of 4-bromo-1-(2-methoxyethyl)-5-(tetrahydro-2H-pyran-4-ylmethyl)-1H-pyrazole-3-carbonitrile as a white solid containing about 2 mol % acetic acid.

reactant | Potassium acetate | 31.7 mmol, 3.12 g | C(C)(=O)[O-].[K+]
reactant | bromine | 17.7 mmol, 2.84 g | BrBr | Br2
reactant | 1-(2-methoxyethyl)-5-(tetrahydro-2H-pyran-4-ylmethyl)-1H-pyrazole-3-carbonitrile | 12.7 mmol, 3.16 g | COCCN1N=C(C=C1CC1CCOCC1)C#N | C13H19N3O2
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
solvent | Water | O | H2O
product | 4-bromo-1-(2-methoxyethyl)-5-(tetrahydro-2H-pyran-4-ylmethyl)-1H-pyrazole-3-carbonitrile | 3.78 g | BrC=1C(=NN(C1CC1CCOCC1)CCOC)C#N | C13H18BrN3O2
